US04025630
3-(3-Methyl-2-octyl)-1-[4-(morpholino)butyryloxy]-6,6,9-trimethyl-7,8,9,10-tetrahydro-6H-dibenzo[b,d]pyran hydrobromide
4.12 g. (11.15 mmole) of 1-Hydroxy-3-(3-methyl-2-octyl)-6,6,9-trimethyl-7,8,9,10-tetrahydro-6H-dibenzo[b,d]pyran was combined with 2.84 g. (11.15 mmole) of γ-morpholinobutyric acid hydrobromide and 2.48 g. (12.0 mmole) of dicyclohexylcarbodiimide in 250 ml. of methylene chloride and stirred at room temperature for 16 hours. The by-product of dicyclohexylurea was removed by filtration and the filtrate was evaporated to give a golden, viscous residue. The material was dissolved in ether and the solid which appeared was removed by filtration. Recrystallization from benzene/ether gave 2.8 g. (41%) of product as colorless crystals, m.p. 120°-122°. The compound showed an Rf 0.7 in 10 % MeOH/CHCl3 ; the infrared and nmr spectra are consistent with the proposed structure.

reactant | 1-Hydroxy-3-(3-methyl-2-octyl)-6,6,9-trimethyl-7,8,9,10-tetrahydro-6H-dibenzo[b,d]pyran | 11.15 mmole | OC1=CC(=CC=2OC(C3=C(C21)CC(CC3)C)(C)C)C(C)C(CCCCC)C | C25H38O2
reactant | γ-morpholinobutyric acid hydrobromide | 11.15 mmole | Br.O1CCN(CC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 12.0 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | 3-(3-Methyl-2-octyl)-1-[4-(morpholino)butyryloxy]-6,6,9-trimethyl-7,8,9,10-tetrahydro-6H-dibenzo[b,d]pyran hydrobromide | Br.CC(C(C)C=1C=C(C2=C(OC(C3=C2CC(CC3)C)(C)C)C1)OC(CCCN1CCOCC1)=O)CCCCC | InChI=1S/C33H51NO4.BrH/c1-7-8-9-11-24(3)25(4)26-21-29(37-31(35)12-10-15-34-16-18-36-19-17-34)32-27-20-23(2)13-14-28(27)33(5,6)38-30(32)22-26;/h21-25H,7-20H2,1-6H3;1H
